US03950350
Acylation of 6-Amino-2,2-dimethyl-3-(5-tetrazolyl)penam 6-(2-Phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
A flask containing 965 mg. of 6-amino-2,2-dimethyl-3-(1-[p-methoxybenzyl]tetrazol-5-yl)penam p-toluenesulfonate, 40 drops of anisole, and 5 ml. of trifluoroacetic acid is immersed in a water-bath maintained at 35°-40° C. The progress of the reaction is followed by removing samples at intervals, and recording their nuclear magnetic resonance spectra. After about 25 min., the removal of the p-methoxybenzyl group is found to be approximately 90% complete. At this point the reaction solution is added to a rapidly-stirred, ice-cold solution of 10 ml. of pyridine in 50 ml. of chloroform. The stirring is continued for 5 min., and then 0.24 ml. of phenylacetyl chloride is added. The cooling bath is removed and the reaction mixture is stirred for a further 20 min. A 100-ml. portion of water is added, and the pH of the aqueous phase is then adjusted to 2.5 by the dropwise addition of 0.5N hydrochloric acid. The chloroform layer is separated off, washed with saturated brine, dried using anhydrous sodium sulfate and then evaporated to dryness in vacuo. The crude product thus obtained is re-dissolved in chloroform, and the solution is divided into two equal portions. To one of these portions is added an equal volume of water. The layers are stirred vigorously and the pH of the aqueous phase is raised to 6.9 by the dropwise addition of 0.1N sodium hydroxide solution. The chloroform is separated off and discarded, and then an equal quantity of fresh chloroform is added to the aqueous phase. The layers are stirred vigorously and the pH is adjusted to 2.5 using dilute hydrochloric acid. The chloroform is separated off, washed with saturated brine, dried using anhydrous magnesium sulfate and then evaporated to dryness in vacuo. This affords 197 mg. of an oily residue. The residue is re-dissolved in 3 ml. of chloroform which is then added dropwise to 30 ml. of hexane. The fluffy white solid which precipitates is filtered off, giving 80 mg. of 6-(2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam. The infrared spectrum (KBr disc) of the product shows absorption bands at 1795 cm-1 (β-lactam carbonyl), 1660 cm-1 (amide I band) and 1510 cm-1 (amide II band). The NMR spectrum (in CDCl3) shows absorption bands at 7.20 ppm (broad singlet, aromatic hydrogens), 5.55 ppm (multiplet, C-5 and C-6 hydrogens), 5.15 ppm (singlet, C-3 hydrogens), 3.60 ppm (broad singlet, benzyl hydrogens), 1.40 ppm (singlet, C-2 methyl hydrogens) and 1.05 ppm (singlet, C-2 methyl hydrogens).

reactant | water | O | H2O
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | 6-(2-phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C16H18N6O2S
reactant | KBr | [K+].[Br-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Amino-2,2-dimethyl-3-(5-tetrazolyl)penam 6-(2-Phenylacetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O.NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | InChI=1S/C16H18N6O2S.C8H12N6OS/c1-16(2)12(13-18-20-21-19-13)22-14(24)11(15(22)25-16)17-10(23)8-9-6-4-3-5-7-9;1-8(2)4(5-10-12-13-11-5)14-6(15)3(9)7(14)16-8/h3-7,11-12,15H,8H2,1-2H3,(H,17,23)(H,18,19,20,21);3-4,7H,9H2,1-2H3,(H,10,11,12,13)/t11?,12?,15-;3?,4?,7-/m11/s1
